US05192803
60 g of methanesulfonyl chloride are metered over approximately 30 minutes at 0° to +5° C. to a solution of 66.5 g of ethyl 2-hydroxyethylcarbamate, 43.5 g of pyridine and 1.9 g of 4-dimethylaminopyridine in 150 ml of methylene chloride, with stirring, and the mixture is stirred for 2 more hours at +5° C. and then for 16 hours at room temperature. The reaction mixture is filtered, the residue is washed with a small quantity of ethyl acetate, and the combined filtrates are washed with dilute hydrochloric acid and water. After the mixture has been dried over magnesium sulfate, the solvent mixture is removed completely by distillation in vacuo, which gives ethyl 2-methylsulfonyloxyethylcarbamate, nD20 1.4450.

reactant | methanesulfonyl chloride | 60 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl 2-hydroxyethylcarbamate | 66.5 g | OCCNC(OCC)=O | C5H11NO3
reactant | pyridine | 43.5 g | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 1.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-methylsulfonyloxyethylcarbamate | CS(=O)(=O)OCCNC(OCC)=O | C6H13NO5S
